US07442696B2
This compound was prepared using General Method 1 (EXAMPLE 1) from 2-amino-6-chlorobenzaldehyde (0.30 g, 1.9 mmol) and ethyl magnesium bromide (3 M in diethyl ether, 1.3 mL) to afford 0.17 g (48%) of (±)-1-(2-amino-6-chlorophenyl)propan-1-ol after flash chromatography (4:1 hexanes:ethyl acetate).

reactant | 2-amino-6-chlorobenzaldehyde | 1.9 mmol, 0.30 g | NC1=C(C=O)C(=CC=C1)Cl | C7H6ClNO
reactant | ethyl magnesium bromide | 3 M, 1.3 mL | C(C)[Mg]Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-1-(2-amino-6-chlorophenyl)propan-1-ol | 0.17 g, 48% | NC1=C(C(=CC=C1)Cl)C(CC)O | C9H12ClNO
